US07186742B2
5-[1-(3-Amino-2-hydroxy-propyl)-5-methyl-1H-pyrazol-3-yl]-2-chloro-N-(1-hydroxy-cycloheptylmethyl)-benzamide
A mixture of 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1-oxiranylmethyl-1H-pyrazol-3-yl)-benzamide (0.4 g, 0.96 mmol) in methanolic ammonia (20 mL, 7.0 N) was heated to 67° C. in a sealed tube for 16 h. The mixture was concentrated in vacuo, and the residue was triturated with diethyl ether-ethyl acetate to afford the title compound (0.12 g). LCMS (m/z) 435.3 M+1.

reactant | 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(5-methyl-1-oxiranylmethyl-1H-pyrazol-3-yl)-benzamide | 0.96 mmol, 0.4 g | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NN(C(=C1)C)CC1OC1 | C22H28ClN3O3
reactant | ammonia | 7.0 N, 20 mL | N | H3N
product | 5-[1-(3-Amino-2-hydroxy-propyl)-5-methyl-1H-pyrazol-3-yl]-2-chloro-N-(1-hydroxy-cycloheptylmethyl)-benzamide | 0.12 g | NCC(CN1N=C(C=C1C)C=1C=CC(=C(C(=O)NCC2(CCCCCC2)O)C1)Cl)O | C22H31ClN4O3
